US08084649B2
5-(4-chlorophenyl)-2-methyl-1-bromobenzene (5.0 g, 0.02 mol) is dissolved in THF (125 ml), and the temperature is brought to −78° C. n-Butyllithium (1.33 molar solution in hexanes, 17.3 ml,) is added dropwise over 30 minutes, maintaining the temperature at around −78° C. The reaction mixture is stirred for one and half hours at −78° C., then trimethylborate (2.58 g, 0.024 mol) is added dropwise and the reaction mixture stirred for three and half hours, allowing it to warm to 0° C. A solution of 2N aqueous hydrochloric acid (50 ml) is then added dropwise, and once the addition is complete the mixture is stirred for 2 hours. The mixture is concentrated in vacuo to remove most of the tetrahydrofuran, then diluted with water (˜80 ml) and extracted with diethyl ether. The organic extracts are combined, dried over anhydrous sodium sulfate, filtered and the filtrate evaporated in vacuo. The residue is further purified by flash column chromatography on silica gel, eluting with 7% ethyl acetate in hexane to give 5-(4-chlorophenyl)-2-methylphenylboronic acid (2.5 g).

reactant | 5-(4-chlorophenyl)-2-methyl-1-bromobenzene | 0.02 mol, 5.0 g | ClC1=CC=C(C=C1)C=1C=CC(=C(C1)Br)C | C13H10BrCl
reactant | n-Butyllithium | 1.33 molar, 17.3 ml | C(CCC)[Li]
reactant | trimethylborate | 0.024 mol, 2.58 g | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | 5-(4-chlorophenyl)-2-methylphenylboronic acid | 2.5 g | ClC1=CC=C(C=C1)C=1C=CC(=C(C1)B(O)O)C | C13H12BClO2
